US08278441B2
Racemic ((3RS,4SR)-4-Amino-4-(5-bromo-2-fluorophenyl)tetrahydrofuran-3-yl)methanol
Zinc powder (190 g, 2.91 mol) is added to a mixture of racemic (3aSR,6aSR)-6a-(5-bromo-2-fluorophenyl)hexahydrofuro[3,4-c]isoxazole (84 g, 290 mmol) in acetic acid (1.4 L) at a rate maintaining the temperature below 30° C. The reaction is heated at 40° C. for 5 h. The reaction is cooled to room temperature and is filtered through a pad of diatomaceous earth, washed with acetic acid and water (200 mL). The solvent is removed under reduced pressure. Water (500 mL) is added to the residue, and the pH is adjusted to pH 10 with 2 M aqueous sodium hydroxide. The basic aqueous suspension is extracted three times with 15% isopropyl alcohol in dichloromethane (3×500 mL). The combined organic layer is dried over magnesium sulfate and the solvent is removed under reduced pressure to give the title compound as a white solid (73.0 g, 86%). ES/MS m/e (79Br/81Br) 290, 292 (M+1).

reactant | racemic (3aSR,6aSR)-6a-(5-bromo-2-fluorophenyl)hexahydrofuro[3,4-c]isoxazole | 290 mmol, 84 g | BrC=1C=CC(=C(C1)C12NOCC1COC2)F | C11H11BrFNO2
solvent | acetic acid | 1.4 L | C(C)(=O)O | C2H4O2
catalyst | Zinc | 2.91 mol, 190 g | [Zn] | Zn
product | Racemic ((3RS,4SR)-4-Amino-4-(5-bromo-2-fluorophenyl)tetrahydrofuran-3-yl)methanol | 73.0 g, 86% | NC1(C(COC1)CO)C1=C(C=CC(=C1)Br)F | C11H13BrFNO2
